US04382939
3-[2-(Ethylpropylamino)propyl]-1,2,3,4-tetrahydro-8-methoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one
Prepared by the method described for Example 59 from 3-[2-(ethylamino)propyl]-1,2,3,4-tetrahydro-8-methoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one (3.0 g, 0.009 moles), propionic acid (20 ml), and sodium borohydride (2.0 g, 0.053 moles). The free base is obtained crystalline. Recrystallization from acetonitrile gave the product (2.0 g), mp 100°-101° C.

reactant | 3-[2-(ethylamino)propyl]-1,2,3,4-tetrahydro-8-methoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.009 moles, 3.0 g | C(C)NC(CN1CC2=C(CC1)C1=C(OC2=O)C=C(C=C1)OC)C | C18H24N2O3
reactant | sodium borohydride | 0.053 moles, 2.0 g | [BH4-].[Na+]
reactant | propionic acid | 20 ml | C(CC)(=O)O | C3H6O2
product | 3-[2-(Ethylpropylamino)propyl]-1,2,3,4-tetrahydro-8-methoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 2.0 g | C(C)N(C(CN1CC2=C(CC1)C1=C(OC2=O)C=C(C=C1)OC)C)CCC | C21H30N2O3
